US07601716B2
{4-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-(pyrrolidin-1-yl)piperidin-1-yl)methanone
1-(2,5-Dichlorobenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazine (64 mg) was reacted with (4-(pyrrolidin-1-yl)piperidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4B to give the title compound as a yellow solid (10% yield). LCMS: m/z=550.11 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.53 (2H, m), 1.80 (7H, m), 2.25 (1H, m), 2.57 (4H, m), 2.98 (2H, m), 3.48 (2H, t, J=4.7 Hz), 3.65 (2H, m), 3.82 (1H, bs), 4.49 (2H, s), 4.59 (1H, m), 5.00 (1H, bs), 6.63 (1H, d, J=1.3 Hz), 7.21 (1H, dd, J=8.6, 2.5 Hz), 7.29 (1H, d, J=2.5 Hz), 37.38 (5H, m), 7.73 (1H, d, J=1.8 Hz).

reactant | 1-(2,5-Dichlorobenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazine | 64 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)Cl | C14H12Cl2IN3
reactant | (4-(pyrrolidin-1-yl)piperidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | N1(CCCC1)C1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H33BN2O3
product | {4-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-(pyrrolidin-1-yl)piperidin-1-yl)methanone | 10% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCC(CC3)N3CCCC3)C=C(C=C1)Cl | C30H33Cl2N5O
